US04096249
2,3,4,6-Tetra-O-acetyl-1-thio-β-D-glucopyranose, obtained from the hydrolysis of 29 g. of S-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl) thiopseudourea hydrobromide as in "Methods in Carbohydrate Chemistry", Vol. II, page 436 (Whistler and Wolfrom editors, Academic Press Inc., 1963), was dissolved in 250 ml. of chloroform and cooled to 0°-5° C. in an ice bath. Anhydrous pyridine (20 ml.) was added, followed by 27.9 g. of trityl chloride. The mixture was stirred overnight at ambient temperature and the organic solution was extracted with dilute hydrochloric acid, washed with 5% aqueous sodium carbonate solution and with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was crystallized from ether, then recrystallized from benzene-cyclohexane to give S-trityl-2,3,4,6-tetra-O-acetyl-1-thio-β-D-glucopyranose, m.p. 177.5°-179.5° C.

reactant | S-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl) thiopseudourea hydrobromide | Br.C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)SC(N)=N
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | trityl chloride | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | S-trityl-2,3,4,6-tetra-O-acetyl-1-thio-β-D-glucopyranose | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)S[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C33H34O9S
